* source CIRCUITOS ELETRONICOS - PROJETO 1
D_D1         0 N14478 Dbreak 
D_D2         N14478 N14486 Dbreak 
D_D3         0 N14482 Dbreak 
D_D4         N14482 N14486 Dbreak 
V_V2         N24773 0  AC 0
+SIN 0 127 60 0 0 0
X_TX1         N24773 0 N14478 0 N14482 CETAPS_Model4
C_C1         0 N14486  8m  TC=0,0 
R_R1         0 N30495  2.4 TC=0,0 
X_U1         N14486 N30495 0 LM7805C
